US04476056
1,3-Dichloro-5-(trifluoromethoxy)-4-methylbenzene (8.0 g, 33 mmol) and 5.0 g (78 mmol) of chloromethyl methyl ether were added to 50 ml of H2SO4 (98%) with stirring at 20° C. The temperature rose slowly to 30° C. The mixture was stirred for 15 hours, then poured into 200 ml of ice water and extracted with 2×100 ml portions of hexane. The hexane extracts were combined, washed with 100 ml of water, dried (MgSO4), filtered, and concentrated. The residue was dissolved in 50 ml of hexane, filtered and concentrated. The resulting white solid was dried (25° C./0.001 mm) to give 9.0 g of 1,3-dichloro-2-chloromethyl-4-methyl-5-(trifluoromethoxy)benzene.

reactant | 1,3-Dichloro-5-(trifluoromethoxy)-4-methylbenzene | 33 mmol, 8.0 g | ClC1=CC(=C(C(=C1)OC(F)(F)F)C)Cl | C8H5Cl2F3O
reactant | chloromethyl methyl ether | 78 mmol, 5.0 g | COCCl | C2H5ClO
reactant | H2SO4 | 50 ml | OS(=O)(=O)O | H2O4S
product | 1,3-dichloro-2-chloromethyl-4-methyl-5-(trifluoromethoxy)benzene | 9.0 g | ClC1=C(C(=C(C(=C1)OC(F)(F)F)C)Cl)CCl | C9H6Cl3F3O
